US05403934
3-Bromo-5-(4-(4-trifluoromethylphenoxy)phenyl)-2,6-dimethylpyridin-4(1H)-one
To a stirred suspension of 3-(4-(4-trifluoromethylphenoxy)phenyl)-2,6-dimethyl pyridin-4(1H)-one (4.12 g) in chloroform (50 ml) at room temperature was added N-bromosuccinimide (2.25 g). After 2 hr the mixture was filtered and the solid washed with chlorofrom and dried in vacuo. Recrystallisation from DMF afforded the title compound (2.18 g), m.p. 304°-305°, NMR δH (d6 -DMSO) 7.70 (2H, dd, J 5, 0.5 Hz), 7.0-7.3 (6H, m), 2.42 (3H, s), 2.1 (3H, s).

reactant | 3-(4-(4-trifluoromethylphenoxy)phenyl)-2,6-dimethyl pyridin-4(1H)-one | 4.12 g | FC(C1=CC=C(OC2=CC=C(C=C2)C2=C(NC(=CC2=O)C)C)C=C1)(F)F | C20H16F3NO2
reactant | N-bromosuccinimide | 2.25 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-5-(4-(4-trifluoromethylphenoxy)phenyl)-2,6-dimethylpyridin-4(1H)-one | 2.18 g | BrC1=C(NC(=C(C1=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)C)C | C20H15BrF3NO2
